US06359138B1
A solution of (RS)-6-methoxy-2,3-dihydro-benzofuran-2-carboxylic acid (158 mg, 0.813 mmol) in THF (2 ml) was added dropwise in a 0° C. suspension of LiAlH4 (31 mg, 0.813 mmol) in THF (2 ml). After 30 min stirring at 0° C., the reaction mixture was allowed to reflux for 30 minutes. The reaction mixture was then cooled to 0° C. and treated successively with H2O (0.05 ml), 5N NaOH (0.05 ml), H2O (0.15 ml). After 20 minutes stirring at room temperature, EtOAc was added followed by Na2SO4. The so obtained solid was filtered and the filtrate was evaporated. The residue was chromatographed over SiO2 (Merck 230-400 mesh) eluting with nHexane-EtOAc (4:1) to provide (RS)-(6-methoxy-2,3-dihydro-benzofuran-2-yl)-methanol (102 mg, 70%) as a colorless oil, MS:m/e=180 (M+).

reactant | (RS)-6-methoxy-2,3-dihydro-benzofuran-2-carboxylic acid | 0.813 mmol, 158 mg | COC1=CC2=C(CC(O2)C(=O)O)C=C1 | C10H10O4
reactant | LiAlH4 | 0.813 mmol, 31 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 5N, 0.05 ml | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 0.15 ml | O | H2O
solvent | H2O | 0.05 ml | O | H2O
product | (RS)-(6-methoxy-2,3-dihydro-benzofuran-2-yl)-methanol | 102 mg, 70% | COC1=CC2=C(CC(O2)CO)C=C1 | C10H12O3
